US06479536B1
4-Fluoro-N-(2,4,6,7-tetramethyl-3-phenyl-1-benzofuran-5-yl)benzamide
By using 2,4,6,7-tetramethyl-3-phenyl-1-benzofuran-5-amine and 4-fluorobenzoyl chloride, the title compound was synthesized according to Example 1b. Yield: 80%. Melting point: 242-245° C. (Ethyl acetate-hexane)

reactant | 2,4,6,7-tetramethyl-3-phenyl-1-benzofuran-5-amine | CC=1OC2=C(C1C1=CC=CC=C1)C(=C(C(=C2C)C)N)C | C18H19NO
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | Ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-Fluoro-N-(2,4,6,7-tetramethyl-3-phenyl-1-benzofuran-5-yl)benzamide | Yield: 80% | FC1=CC=C(C(=O)NC=2C(=C(C3=C(C(=C(O3)C)C3=CC=CC=C3)C2C)C)C)C=C1 | C25H22FNO2
